US08633173B2
7-[5-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-5-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.46 g, 1.4 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.557 g, 2.12 mmol) in a manner analogous to Example 2d. Product was isolated as a foam (0.33 g, 42%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.94 (brs, 1H), 7.80-7.77 (m, 1H), 7.55-7.49 (m, 2H), 7.20-7.15 (m, 1H), 7.05-7.00 (m, 1H), 7.00-6.96 (m, 1H), 6.90 (brs, 1H), 3.88 (s, 3H), 3.60-3.48 (m, 4H), 2.89-2.78 (m, 4H), 1.52 (s, 9H). MS=554 (MH)+.

reactant | 2-chloro-5-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.4 mmol, 0.46 g | ClC1=NN2C(C=CC=C2C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 2.12 mmol, 0.557 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[5-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C=CC=C1C1=C(C=CC(=C1)C(F)(F)F)OC)=N2 | C29H30F3N5O3
